2121-12-28 08:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Wegner's and TB
   24 Hour Events:
   Patient was brought to unit.  VIP HD line was placed in IJ, this was
   found to not be long enough and was replaced over a wire with longer
   catheter.  Proper location confirmed with IR and CVVH started
   Aline placed
   2 U pRBC given d/t blood loss in line placement.
   Allergies:
   Simvastatin
   Hepatic toxicit
   Pravastatin
   elevated LFTs;
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2121-12-28**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 34.6
C (94.3
   HR: 66 (66 - 126) bpm
   BP: 116/45(65) {116/43(34) - 128/46(65)} mmHg
   RR: 12 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  1,083 mL
                                                                    435 mL
   PO:
           TF:
   IVF:
   146 mL
   Blood products:
                                                                    843 mL
                                                                    289 mL
   Total out:
                                                                    270 mL
                                                                     35 mL
   Urine:
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    813 mL
                                                                    400 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.37/25/77/15/-8
   Physical Examination
   Gen: Alert and oriented, mildly sleepy
   Eyes: PERRL; EOMI
   Chest: CTAB
   Heart: reg rate; irreg rhythm.  No  murmurs
   Abd: distended, soft, normal BS
   Ext: Anasarca
   Labs / Radiology
   190 K/uL
   6.8 g/dL
   248 mg/dL
   5.0 mg/dL
   15 mEq/L
   4.8 mEq/L
   101 mg/dL
   104 mEq/L
   129 mEq/L
   20.8 %
   7.0 K/uL
        [image002.jpg]
                            [**2121-12-27**]  07:35 PM
                            [**2121-12-28**]  03:39 AM
                            [**2121-12-28**]  04:56 AM
   WBC
   8.3
   7.0
   Hct
   24.4
   20.8
   Plt
   173
   190
   Cr
   4.9
   5.0
   TropT
   0.05
   0.12
   TCO2
   15
   Glucose
   200
   278
   248
   Other labs: PT / PTT / INR:24.1/150.0/2.3, CK / CKMB /
   Troponin-T:77/8/0.12, ALT / AST:19/22, Alk Phos / T Bili:83/0.6,
   Albumin:2.7 g/dL, LDH:215 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:5.4
   mg/dL
   Imaging: ECHO [**2121-12-27**]
   There is mild symmetric left ventricular hypertrophy with normal cavity
   size and global systolic function (LVEF>55%). Right ventricular chamber
   size and free wall motion are normal. The aortic valve leaflets (3) are
   mildly thickened but aortic stenosis is not present. Mitral
   regurgitation is present but cannot be quantified. There is no
   pericardial effusion
   Microbiology: [**2121-12-22**]  URINE URINE CULTURE-FINAL {KLEBSIELLA
   PNEUMONIAE}
   [**2121-12-23**] BAL
   10,000-100,000 ORGANISMS/ML..
         Staphylococcus
   STAPH AUREUS COAG +.
   Assessment and Plan
   An 84 year old gentleman with worsening renal failure and acidosis from
   Wegener's, presumed pulmonary [**Hospital **] transferred to the ICU for urgent
   dialysis planning. At the time of transfer he is fairly comfortable on
   2L nasal cannula.
   .
   1. Hypoxia: The patient is currently hypoxic with some dyspnea.  His
   multiple etiologies include fluid overload from renal failure,
   pulmonary mycobacterial infection and hemoptysis status post bronch.
   He is doing well on 2L nasal cannula at this time.  Concern for
   underlying tamponade physiology not likely given stat Echo today
   revealing a resolved pericardial effusion.
   - Remove excess fluid with CVVH and possible HD
   - OK to intubate if needed, no need at this time
   - ABG f/u to assure adequately oxygenating
   - Incentive spirometer at bedside0
   - F/U Final CXR read
   .
   2. Tachycardia: The patient is intermittently tachycardic, likely sick
   sinus syndrome. New EKG changes as above concerning for ischemia versus
   rate related change.  No acute failure on Echo.
   - Diltiazem for rate goal ~ 100, pending blood pressure tolerance; do
   not give if patient HR <100
   .
   3. Renal failure:  The patient has acute on chronic renal failure from
   worsening Wegener's.  Given his fluid overload causing hypoxia, the
   plan is for HD/CVVH today.
   - continue to monitor and correct coagulopathy
   - Begin CVVH to remove large volumes.
   - f/u Renal recs
   .
   4. Coagulopathy: The patient's INR is 4.0, likely from recent warfarin
   and multiple antibiotic administration given new diagnosis of TB. No
   reason to suspect worsening liver function at this time, although
   multiple meds may cause this in the future.
   - FFP to correct to 1.5 for procedures (such as lines abovE)
   - Vit K 5mg daily for 2 days
   - monitor INR this afternoons
   .
   5. Wegener's Granulomatosis: The patient has biopsy evidence of renal
   Wegener's with unknown pulmonary status.
   - Continue Prednisone & Cyclophosphamide
   - Continue Bactrim Ppx
   .
   6. Pulmonary TB: The patient has evidence of Pulmonary Mycobacterial
   infection, presumed to be TB until proven otherwise.  Cultures
   outstanding.
   - F/u further TB testing
   - Continue Rifampin, INH, Pyrazinamide and Ethambutol
   - Continue B6 for liver protection.
   - respiratory isolation
   - ID consult re: treatment course
   .
   7. Hemoptysis: The patient has bronchiectasis, recent bronchoscopy,
   pulmonary TB and a supratherpeutic INR giving him multiple reasons to
   have hemoptysis.
   - Continue to monitor, correct coagulopathy.
   .
   8. Anemia: probably multifactorial.  Lost blood during HD placement.
   Received 2 u PRBC
   - check afternoon Hct
   - transfuse for Hct <21
   .
   9. Diabetes Mellitus: Continue SSI
   - recalculate insulin need based on blood glucoses this afternoon
   .
   FEN: No IVF, CVVH, renal diet and boost for adequate PO
   Prophylaxis: Pneumoboots while supratherapeutic
   Access: Peripheral, better access pending
   Code:  Full (confirmed with patient)
   Communication: Patient and wife [**Name (NI) 6046**] [**Name (NI) 11687**] [**Telephone/Fax (1) 11688**]
   Disposition: MICU pending CVVH/HD
   .

2121-12-28 12:31:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see Dr[**Name (NI) 11707**] note from [**12-27**] for details. I reviewed it
   and agree with his note, including assessment and plan.
   84 year old man with worsening renal failure and acidosis from
   Wegener's, pulmonary mycobacteria, being treated as MTB. Transferred to
   the ICU for urgent dialysis.  Developed pericardial effusion during his
   hospitalization (since [**12-8**]).
   1. Hypoxia: The patient is currently hypoxic with some dyspnea.  His
   multiple etiologies include fluid overload from renal failure,
   pulmonary mycobacterial infection and hemoptysis status post bronch.
   He is doing well on 2L nasal cannula at this time.  Concern for
   underlying tamponade physiology not likely given stat Echo today
   revealing a resolved pericardial effusion.
   24 Hour Events:
 EKG - At [**2121-12-27**] 09:29 PM
 DIALYSIS CATHETER - START [**2121-12-28**] 02:00 AM
   rt ij
 EKG - At [**2121-12-28**] 02:15 AM
   Concern for pulsus paradoxis yesterday led to ICU transfer. Echo did
   not show any pericardial effusion.
   INR yesterday 4.0. Received FFP 4U, right IJ placed, then replaced with
   the 20cm line. CVVH started this morning for borderline hypotension.
   2U PRBC last night.
   PMH sig for afib, CKD, HTN, DM, bronchiectasis, prostate CA, malignant
   melanoma.
   Meds: INH, PZA, RIF, ETH, pyridoxine, prednisone 60qd, cyclophosphamide
   100qd, bactrim ss qd, insulin, duonebs, sevelamer.
   ROS unchanged since Dr[**Name (NI) 11707**] note. Otherwise neg in detail.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Simvastatin
   Hepatic toxicit
   Pravastatin
   elevated LFTs;
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 10 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-28**] 12:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.2
C (95.3
   HR: 103 (66 - 126) bpm
   BP: 91/38(53) {89/35(34) - 128/46(65)} mmHg
   RR: 20 (12 - 28) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  1,083 mL
                                                                    560 mL
   PO:
           TF:
   IVF:
   271 mL
   Blood products:
                                                                    843 mL
                                                                    289 mL
   Total out:
                                                                    270 mL
                                                                    502 mL
   Urine:
                                                                    270 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    813 mL
                                                                     58 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.42/27/63/15/-4
   Physical Examination
   General Appearance: Well nourished, No(t) Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anterior)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: anasarca
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): all, Movement: Purposeful, Tone: Not assessed,
   appropriate, interactive, kind
   Labs / Radiology
   6.8 g/dL
   190 K/uL
   195 mg/dL
   5.0 mg/dL
   15 mEq/L
   4.5 mEq/L
   101 mg/dL
   106 mEq/L
   129 mEq/L
   20.8 %
   7.0 K/uL
         [image002.jpg]
                            [**2121-12-27**]  07:35 PM
                            [**2121-12-28**]  03:39 AM
                            [**2121-12-28**]  04:56 AM
                            [**2121-12-28**]  10:40 AM
   WBC
   8.3
   7.0
   Hct
   24.4
   20.8
   Plt
   173
   190
   Cr
   4.9
   5.0
   TropT
   0.05
   0.12
   TCO2
   15
   18
   Glucose
   200
   278
   248
   195
   Other labs: PT / PTT / INR:20.6/92.9/1.9, CK / CKMB /
   Troponin-T:77/8/0.12, ALT / AST:19/22, Alk Phos / T Bili:83/0.6,
   Albumin:2.7 g/dL, LDH:215 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:5.4
   mg/dL
   Imaging: Reviewed CT [**2121-12-18**] which showed bilat scarring,
   bronchiectasis esp LUL, RML, bilateral effusions R>>L.
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Hypoxemic resp failure. Currently 100% SpO2 on 4L NC. Expect to improve
   with CVVH but some component of hypoventilation with rapid shallow
   breathing as well as v/q mm from atelectasis.
   Incentive spirometer.
   Afib with RVR. PRN dilt.
   Renal failure- CKD in addition to WG. Metabolic acidosis. Started CVVH
   this morning.
   Coagulopathy. Had been on warfarin for afib. INR may be due to drug
   effect (esp INH, RIF). Vit K PO.
   Wegener
s- pred, cytoxan
   TB- more likely NTM but on treatment for MTB (4 drugs) pending cx. ID
   following. Team will determine how long he has been on therapy and when
   isolation can be d/c.
   Hemoptysis: multiple possible etiologies with WG, TB, bronchiectasis,
   coagulopathic, uremic. Has not recurred in MICU.
   DM, other issues per Dr [**Last Name (STitle) 11683**]
s note.
   ICU Care
   Nutrition: PO renal diet, but poor intake. Boost ordered.
   Glycemic Control:
   Lines:
   22 Gauge - [**2121-12-27**] 05:45 PM
   Dialysis Catheter - [**2121-12-28**] 02:00 AM
   Arterial Line - [**2121-12-28**] 09:27 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2121-12-29 08:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2121-12-28**] 09:27 AM
   - S/p 2U PRBC's
   - CVVH started at 6am today
   - Renal: try to remove some volume as tolerated by bp
   - ID: Discussing with pharm whether meds need to be readjusted now that
   back on CVVH, and will get back to us abt that. Will have more info
   from state lab in next few days re: TB rapid Dx tests. If not MTB,
   likely [**Doctor First Name **].
   - Given 5mg PO VitK
   - Out to floor later if going OK
   Allergies:
   Simvastatin
   Hepatic toxicit
   Pravastatin
   elevated LFTs;
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-12-28**] 10:15 AM
   Heparin Sodium (Prophylaxis) - [**2121-12-29**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-29**] 08:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.3
C (95.6
   HR: 97 (66 - 112) bpm
   BP: 113/51(71) {89/36(51) - 146/76(94)} mmHg
   RR: 16 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,880 mL
                                                                    981 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                  1,441 mL
                                                                    981 mL
   Blood products:
                                                                  1,039 mL
   Total out:
                                                                  4,332 mL
                                                                  3,030 mL
   Urine:
                                                                    670 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                    -1,452 --> negative 2.6 through LOS mL
                                                                 -2,049 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.38/26/95/15/-7    THIS MORNING AT 8AM
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   137 K/uL
   9.2 g/dL
   159 mg/dL
   3.2 mg/dL
   15 mEq/L
   4.6 mEq/L
   58 mg/dL
   108 mEq/L
   134 mEq/L
   26.8 %
   7.5 K/uL
        [image002.jpg]
                            [**2121-12-28**]  03:39 AM
                            [**2121-12-28**]  04:56 AM
                            [**2121-12-28**]  10:40 AM
                            [**2121-12-28**]  04:42 PM
                            [**2121-12-28**]  04:57 PM
                            [**2121-12-28**]  10:24 PM
                            [**2121-12-28**]  10:50 PM
                            [**2121-12-29**]  03:35 AM
                            [**2121-12-29**]  03:49 AM
                            [**2121-12-29**]  08:06 AM
   WBC
   7.0
   7.5  STABLE
   Hct
   20.8
   27.0
   26.8  WENT UP WITH 2U
   Plt
   190
   137
   Cr
   5.0
   3.8
   3.2
   TropT
   0.12
   TCO2
   15
   18
   16
   15
   17
   16
   Glucose
   [**Telephone/Fax (3) 11734**]93
   186
   173
   168
   159
   Other labs: PT / PTT / INR:15.8/33.3/1.4  TRENDING DOWN THIS AM , CK /
   CKMB / Troponin-T:77/8/0.12   YESTERDAY , ALT / AST:19/22, Alk Phos / T
   Bili:83/0.6, Albumin:2.7 g/dL, LDH:215 IU/L, Ca++:8.1 mg/dL, Mg++:2.3
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   An 84 year old gentleman with worsening renal failure and acidosis from
   Wegener's, presumed pulmonary [**Hospital **] transferred to the ICU for urgent
   dialysis planning. At the time of transfer he is fairly comfortable on
   2L nasal cannula.
   1. Hypoxia: The patient is currently hypoxic with some dyspnea.  His
   multiple etiologies include fluid overload from renal failure,
   pulmonary mycobacterial infection and hemoptysis status post bronch.
   Concern for underlying tamponade physiology not likely given stat Echo
   today revealing a resolved pericardial effusion. He is now satting 97%
   on NC
   - Remove excess fluid with CVVH and possible HD
   - OK to intubate if needed, no need at this time
   - ABG f/u to assure adequately oxygenating
   - Incentive spirometer at bedside
   - Consider repeat CXR tomorrow
   2. Tachycardia: The patient is intermittently tachycardic, likely sick
   sinus syndrome. New EKG changes as above concerning for ischemia versus
   rate related change.  No acute failure on Echo.
   - Diltiazem for rate goal ~ 100, pending blood pressure tolerance; do
   not give if patient HR <100
   3. Renal failure:  The patient has acute on chronic renal failure from
   worsening Wegener's.  Given his fluid overload causing hypoxia, the
   plan is for HD/CVVH today.
   - continue to monitor and correct coagulopathy
   - Begin CVVH to remove large volumes.
   - f/u Renal recs: will remove fluids as bp tolerates
   4. Coagulopathy: The patient's INR is 1.4 which has trended down from
   peak of 4.0, likely from recent warfarin and multiple antibiotic
   administration given new diagnosis of TB. No reason to suspect
   worsening liver function at this time, although multiple meds may cause
   this in the future.
   - monitor INR this afternoon
   - Got Vitamin K yesterday, will hold off for today unless INR acutely
   rises again
   5. Wegener's Granulomatosis: The patient has biopsy evidence of renal
   Wegener's with unknown pulmonary status.
   - Continue Prednisone & Cyclophosphamide
   - Continue Bactrim Ppx
   6. Pulmonary TB: The patient has evidence of Pulmonary Mycobacterial
   infection, presumed to be TB until proven otherwise.  Cultures
   outstanding.
   - F/u further TB testing
   - Continue Rifampin, INH, Pyrazinamide and Ethambutol
   - Continue B6 for liver protection.
   - respiratory isolation
   - F/u with ID, who will be in contact regarding changing dosage
   according to
   7. Hemoptysis: The patient has bronchiectasis, recent bronchoscopy,
   pulmonary TB and a supratherpeutic INR giving him multiple reasons to
   have hemoptysis.
   - Continue to monitor, correct coagulopathy.
   8. Anemia: probably multifactorial.  Lost blood during HD placement.
   Received 2 u PRBC
   - check afternoon Hct
   - transfuse for Hct <21
   9. Diabetes Mellitus: Continue SSI
   - recalculate insulin need based on blood glucoses this afternoon
   FEN: No IVF, CVVH, renal diet and boost for adequate PO
   Prophylaxis: Pneumoboots while supratherapeutic
   Access: Peripheral, better access pending
   Code:  Full (confirmed with patient)
   Communication: Patient and wife [**Name (NI) 6046**] [**Name (NI) 11687**] [**Telephone/Fax (1) 11688**]
   Disposition: MICU pending CVVH/HD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2121-12-28**] 02:00 AM
   Arterial Line - [**2121-12-28**] 09:27 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-12-29 11:29:00 Physician Attending Progress Note
Chief Complaint: acute renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo man with DM, AFib on coumadin, admitted with ARF and
   pericarditis.  Found to have Wegener's in kidney.  Also has history of
   old TB, in this admission found to have AFB on BAL, awaiting typing
   from state lab.   Tranferred to MICU for fluid overload and CVVH.
   24 Hour Events:
 ARTERIAL LINE - START [**2121-12-28**] 09:27 AM
   Allergies:
   Simvastatin
   Hepatic toxicit
   Pravastatin
   elevated LFTs;
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 10 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-12-29**] 08:54 AM
   Heparin Sodium (Prophylaxis) - [**2121-12-29**] 08:54 AM
   Other medications:
   lipitor
   vitamin D
   cytoxan
   bactrim
   prednisone
   SSI
   INH
   PZA
   ETH
   RIF
   pyradoxine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-29**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.3
C (95.6
   HR: 70 (66 - 116) bpm
   BP: 123/50(72) {102/44(62) - 146/76(94)} mmHg
   RR: 15 (12 - 26) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95.5 kg (admission): 98.3 kg
             Total In:
                                                                  2,880 mL
                                                                  1,574 mL
   PO:
                                                                    400 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,441 mL
                                                                  1,374 mL
   Blood products:
                                                                  1,039 mL
   Total out:
                                                                  4,332 mL
                                                                  4,104 mL
   Urine:
                                                                    670 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,452 mL
                                                                 -2,530 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.38/26/95.[**Numeric Identifier 218**]/15/-7
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Loud)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : left base, Bronchial:
   b/l bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.2 g/dL
   137 K/uL
   159 mg/dL
   3.2 mg/dL
   15 mEq/L
   4.6 mEq/L
   58 mg/dL
   108 mEq/L
   134 mEq/L
   26.8 %
   7.5 K/uL
        [image002.jpg]
                            [**2121-12-28**]  03:39 AM
                            [**2121-12-28**]  04:56 AM
                            [**2121-12-28**]  10:40 AM
                            [**2121-12-28**]  04:42 PM
                            [**2121-12-28**]  04:57 PM
                            [**2121-12-28**]  10:24 PM
                            [**2121-12-28**]  10:50 PM
                            [**2121-12-29**]  03:35 AM
                            [**2121-12-29**]  03:49 AM
                            [**2121-12-29**]  08:06 AM
   WBC
   7.0
   7.5
   Hct
   20.8
   27.0
   26.8
   Plt
   190
   137
   Cr
   5.0
   3.8
   3.2
   TropT
   0.12
   TCO2
   15
   18
   16
   15
   17
   16
   Glucose
   [**Telephone/Fax (3) 11734**]93
   186
   173
   168
   159
   Other labs: PT / PTT / INR:15.8/33.3/1.4, CK / CKMB /
   Troponin-T:77/8/0.12, ALT / AST:19/22, Alk Phos / T Bili:83/0.6,
   Albumin:2.7 g/dL, LDH:215 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  On CVVH, getting
   200cc removed per hour.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Breathing improved.  Not
   now SOB on movement
   Afib: start heparin.
   Wegener's:  On prednisone and cytoxan.  Bactrim for prophylaxis.
   follow WBC on cytoxan.
   Mycobacterial lung infection:  has underlying bronchiectasis from old
   TB.  Await ID of AFB on sputum.
   Renal Diet.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2121-12-28**] 02:00 AM
   Arterial Line - [**2121-12-28**] 09:27 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2121-12-30 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Started heparin gtt
   - PTT above 150 twice. Held heparin and came down on infusion rate.
   - Continued on CVVH
   Allergies:
   Simvastatin
   Hepatic toxicit
   Pravastatin
   elevated LFTs;
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 20 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-12-29**] 08:54 AM
   Heparin Sodium (Prophylaxis) - [**2121-12-29**] 08:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-30**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 69 (65 - 134) bpm
   BP: 112/47(68) {76/37(50) - 139/61(86)} mmHg
   RR: 15 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.5 kg (admission): 98.3 kg
   Height: 70 Inch
             Total In:
                                                                  3,413 mL
                                                                    784 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  2,813 mL
                                                                    784 mL
   Blood products:
   Total out:
                                                                  8,533 mL
                                                                  1,897 mL
   Urine:
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                 -5,120   --> now -1L through today and -6L through LOS mL
                                                                 -1,113 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.43/26/73/15/-4        TODAY 530AM
   Physical Examination
   Awoken, no distress. Very pleasant, subjectively feeling much better,
   states legs feel less tight. Lungs CTAB anteriorly. Heart benign, not
   tachycardic. Abd benign. Legs still with gross anasarca bilaterally up
   to the abdomen, arms are also grossly swollen but not as much as legs.
   Labs / Radiology
   104 K/uL
   8.6 g/dL
   95 mg/dL
   2.4 mg/dL
   15 mEq/L
   4.5 mEq/L
   41 mg/dL
   109 mEq/L
   133 mEq/L
   26.5 %
   7.6 K/uL
        [image002.jpg]
                            [**2121-12-28**]  10:50 PM
                            [**2121-12-29**]  03:35 AM
                            [**2121-12-29**]  03:49 AM
                            [**2121-12-29**]  08:06 AM
                            [**2121-12-29**]  01:32 PM
                            [**2121-12-29**]  01:52 PM
                            [**2121-12-29**]  08:12 PM
                            [**2121-12-29**]  11:37 PM
                            [**2121-12-29**]  11:50 PM
                            [**2121-12-30**]  05:30 AM
   WBC
   7.5
   8.2
   7.6  STABLE
   Hct
   26.8
   27.1
   26.5  STABLE
   Plt
   137
   116
   104  CONTINUE TO DECREASE
   Cr
   3.2
   2.7
   2.4
   TCO2
   15
   17
   16
   16
   16
   18
   18
   Glucose
   186
   173
   168
   159
   [**Telephone/Fax (2) 11749**]89
   95
   Other labs: PT / PTT / INR:18.2/150.0/1.6   , CK / CKMB /
   Troponin-T:77/8/0.12   OLD , ALT / AST:19/22       OLD , Alk Phos / T
   Bili:83/0.6       OLD , Albumin:2.7 g/dL, LDH:215 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.1 mg/dL    LOW
   Fluid analysis / Other labs: PTT has been > 150 x3 times
   INR 1.6 stable
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   An 84 year old gentleman with worsening renal failure and acidosis from
   Wegener's, presumed pulmonary [**Hospital **] transferred to the ICU for urgent
   dialysis planning.
   His active issues are:
   1. Hypoxia when he was admitted: Pt was admitted hypoxic and dyspneic,
   thought to be multifactorial including renal failure induced volume
   overload, pulmonary TB infxn, and hemoptysis s/p bronch. Tamponade
   physiology was not [**Location (un) **] out by echo, which showed a resolving
   pericardial effusion.
   This is no longer an acute issue, the pt is satting well on RA and is
   not subjectively dyspneic
   - Will continue CVVH per renal team to remove the gross fluid overload
   - OK to intubate if needed, no need at this time
   - Consider daily CXR
s to assess pulmonary fluid status
   2. Renal failure:  The patient has acute on chronic renal failure from
   worsening Wegener's.  He was admitted to MICU with fluid overload
   causing hypoxia. He is on CVVH currently and renal is on board.
   - Will touch base with Renal today about whether we can transition to
   IHD. His bp looks like it would tolerate it. He has been getting a lot
   of fluid off by CVVH but still needs quite a bit taken off as he is
   still grossly anasarcatous. If he can go to IHD, he can likely be
   called out to floor.
   3. Dropping platelets: Could be related to drugs or autoimmune related
   with known Dx of Wegener's, possibly due to heparin exposure/HIT, CVVH,
   etc. Differential is broad but plts are not at dangerously low level,
   would just keep an eye on it.
   - Drug list review for thrombocytopenia
   - Send smear
   - If it keeps going lower, would get Heme on board.
   4. Need for anticoagulation with h/o Sick Sinus Syndrome, intermittent
   AFib and bradycardia. Was on Coumadin on admission but not currently
   on. His INR today is 1.4, down from a peak of 4.0. He will need to be
   anticoagulated given high CHADS2 score.
   - Has had several >150 PTT
s with decreases in his rate of heparin
   infusion. Have been decreasing by 100U/hr for each time it
s been
   supraTx, now currently at 1100U/hr but have told nurse to drop the rate
   by 350U/hr if he is supraTx again.
   - Unsure whether pt will need further procedures, so hesitant to
   restart longer acting Coumadin
   - Continue to monitor coags panels
   5. Pulmonary TB: Had positive acid-fast smear, but state lab has now
   confirmed Gen-probe of MTB is negative. AF culture still pending. ID is
   on board. Per ID, if not MTB, [**Doctor First Name **] likely.
   - F/u with ID, who have been in touch with the state lab for Dx testing
   - Continue Rifampin, INH, Pyrazinamide and Ethambutol
   - Continue B6 for liver protection.
   - renal recs: Goal 1-2 liters negative or more if tolerated. Ended up
   5L negative!-  respiratory isolation
   Other non-active issues:
   5. Tachycardia: The patient is intermittently tachycardic, likely sick
   sinus syndrome. Had new EKG changes as above concerning for ischemia
   versus rate related change, and no acute failure on Echo.
   - Continue Diltiazem for rate goal ~ 100, pending blood pressure
   tolerance; do not give if patient HR <100
   - Current HR in the 70-80
   5. Wegener's Granulomatosis: The patient has biopsy evidence of renal
   Wegener's with unknown pulmonary status.
   - Continue Prednisone & Cyclophosphamide
   - Will need to closely watch WBC count given Cyclophosphamide
   - Continue Bactrim Ppx
    7. Hemoptysis: The patient has bronchiectasis, a recent bronchoscopy,
   pulmonary TB and had a supratherpeutic INR, giving him multiple reasons
   to have hemoptysis.  He has not had any since his admission to MICU.
   - Watch for hemoptysis
   - Watch coag panels as above
   8. Anemia: probably multifactorial.  Lost blood during HD placement.
   Received 2 u PRBC yesterday
   - check afternoon Hct
   - transfuse for Hct <21
   9. Diabetes Mellitus: Continue SSI
   - recalculate insulin need based on blood glucoses this afternoon
   FEN: No IVF, CVVH, renal diet and boost for adequate PO
   Prophylaxis: Pneumoboots and will start systemic heparin gtt
   Access: Peripheral and R sided HD line. Art line
   Code:  Full (confirmed with patient)
   Communication: Patient and wife [**Name (NI) 6046**] [**Name (NI) 11687**] [**Telephone/Fax (1) 11688**]
   Disposition: MICU pending CVVH/HD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2121-12-28**] 02:00 AM
   Arterial Line - [**2121-12-28**] 09:27 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-12-30 11:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo man with renal Wegener's.  Bronchiectasis, AFB in sputum.  ARF on
   CVVH.  Continues on
   CVVH getting fluid off.
   24 Hour Events:
   Allergies:
   Simvastatin
   Hepatic toxicit
   Pravastatin
   elevated LFTs;
   Last dose of Antibiotics:
   Infusions:
   KCl (CRRT) - 20 mEq./hour
   Heparin Sodium - 1,100 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-12-30**] 08:38 AM
   Other medications:
   lipitor
   pritonix
   vit A
   renajel
   bactrim
   cytoxan
   epogen
   SSI
   Fe
   RIPE.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-30**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.6
C (96
   HR: 70 (65 - 134) bpm
   BP: 131/55(79) {76/37(50) - 139/61(86)} mmHg
   RR: 16 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95.5 kg (admission): 98.3 kg
   Height: 70 Inch
             Total In:
                                                                  3,413 mL
                                                                  1,380 mL
   PO:
                                                                    600 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  2,813 mL
                                                                  1,230 mL
   Blood products:
   Total out:
                                                                  8,533 mL
                                                                  3,220 mL
   Urine:
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,120 mL
                                                                 -1,840 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.44/26/85.[**Numeric Identifier 126**]/15/-4
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : left base)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   104 K/uL
   125 mg/dL
   2.4 mg/dL
   15 mEq/L
   5.0 mEq/L
   41 mg/dL
   109 mEq/L
   133 mEq/L
   26.5 %
   7.6 K/uL
        [image002.jpg]
                            [**2121-12-29**]  03:35 AM
                            [**2121-12-29**]  03:49 AM
                            [**2121-12-29**]  08:06 AM
                            [**2121-12-29**]  01:32 PM
                            [**2121-12-29**]  01:52 PM
                            [**2121-12-29**]  08:12 PM
                            [**2121-12-29**]  11:37 PM
                            [**2121-12-29**]  11:50 PM
                            [**2121-12-30**]  05:30 AM
                            [**2121-12-30**]  11:12 AM
   WBC
   7.5
   8.2
   7.6
   Hct
   26.8
   27.1
   26.5
   Plt
   137
   116
   104
   Cr
   3.2
   2.7
   2.4
   TCO2
   17
   16
   16
   16
   18
   18
   18
   Glucose
   173
   168
   159
   [**Telephone/Fax (2) 11751**]5
   125
   Other labs: PT / PTT / INR:18.2/150.0/1.6, CK / CKMB /
   Troponin-T:77/8/0.12, ALT / AST:19/22, Alk Phos / T Bili:83/0.6,
   Albumin:2.7 g/dL, LDH:215 IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Has done well on CVVH.  Will touch base with renal about converting
   over to HD.
   AFB in sputum:  Gene probe negative for MTb.  awaiting gene probe for
   MAC.  On RIPE pending results.
   AF:  On heparin, has had high PTT on heparin.  WIll be more aggressive
   in decreasing dose.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2121-12-28**] 02:00 AM
   Arterial Line - [**2121-12-28**] 09:27 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2121-12-30 15:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Started heparin gtt
   - PTT > 150 several times, held and rate decreased
   Allergies:
   Simvastatin
   Hepatic toxicit
   Pravastatin
   elevated LFTs;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-12-30**] 08:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-12-30**] 03:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 125 (68 - 125) bpm
   BP: 112/50(68) {107/45(65) - 146/62(86)} mmHg
   RR: 22 (13 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95.5 kg (admission): 98.3 kg
   Height: 70 Inch
             Total In:
                                                                  3,413 mL
                                                                  1,464 mL
   PO:
                                                                    600 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  2,813 mL
                                                                  1,314 mL
   Blood products:
   Total out:
                                                                  8,533 mL
                                                                  3,499 mL
   Urine:
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,120 mL
                                                                 -2,035 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.44/26/85.[**Numeric Identifier 126**]/17/-4
   Physical Examination
   General Appearance: Awoken, no distress, subjectively feeling better,
   feeling legs less tight
   Cardiovascular: S1 S2 clear, RRR, heart benign
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: CTAB anteriorly
   Abdominal: Abd benign
   Extremities: BLE still with gross anasarca to thighs, arms also grossly
   swollen, both appear improved though
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   109 K/uL
   9.1 g/dL
   141 mg/dL
   2.2 mg/dL
   17 mEq/L
   5.3 mEq/L
   35 mg/dL
   108 mEq/L
   136 mEq/L
   27.0 %
   8.2 K/uL
        [image002.jpg]
                            [**2121-12-29**]  03:49 AM
                            [**2121-12-29**]  08:06 AM
                            [**2121-12-29**]  01:32 PM
                            [**2121-12-29**]  01:52 PM
                            [**2121-12-29**]  08:12 PM
                            [**2121-12-29**]  11:37 PM
                            [**2121-12-29**]  11:50 PM
                            [**2121-12-30**]  05:30 AM
                            [**2121-12-30**]  11:12 AM
                            [**2121-12-30**]  01:00 PM
   WBC
   8.2
   7.6
   8.2
   Hct
   27.1
   26.5
   27.0
   Plt
   116
   104
   109
   Cr
   2.7
   2.4
   2.2
   TCO2
   17
   16
   16
   16
   18
   18
   18
   Glucose
   168
   159
   251
   [**Telephone/Fax (2) 11752**]5
   141
   Other labs: PT / PTT / INR:17.6/150.0/1.6, CK / CKMB /
   Troponin-T:77/8/0.12, ALT / AST:19/22, Alk Phos / T Bili:83/0.6,
   Albumin:2.7 g/dL, LDH:215 IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:2.0
   mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   An 84 year old gentleman with worsening renal failure and acidosis from
   Wegener's, presumed pulmonary [**Hospital **] transferred to the ICU for urgent
   dialysis planning.
   Active issues at this point:
   1. Hypoxia: Pt was admitted hypoxic and dyspneic, thought to be
   multifactorial including renal failure induced volume overload,
   pulmonary TB infxn, and hemoptysis s/p bronch. Tamponade physiology was
   not [**Location (un) **] out by echo, which showed a resolving pericardial effusion.
   Pt is now satting well on RA and not subjectively dyspneic.
   - Has now had 6L removed by CVVH and will stop per renal recs as below
   - OK to intubate if needed, no need at this time
   2. Renal failure:  The patient has acute on chronic renal failure from
   worsening Wegener's.  He was admitted to MICU with fluid overload
   causing hypoxia. He is on CVVH currently and renal is on board.
   - Spoke with renal attndg this am who recommends stopping CVVH as he
   felt too much was taken off yesterday (6L). He wanted to stop [**Hospital 11753**]
   transfer to floor, and if more HD was needed, could do IHD. Continue to
   watch BUN/Cr and UOP.
   - Will stop CVVH
   3. Need for anticoagulation with h/o Sick Sinus Syndrome, intermittent
   AFib and bradycardia. Was on Coumadin on admission but not currently
   on. His INR today is 1.4, down from a peak of 4.0. He will need to be
   anticoagulated given high CHADS2 score.
   - Continue on Heparin gtt but will decrease by 350U/hr if PTT
   continue to be elevated, instead of the 100U/hr that the rate had been
   being decreased
   - Unsure whether pt will need further procedures, so hesitant to
   restart longer acting Coumadin
   - Continue to monitor coags panels.
   4. ID: State labs Gen-probe negative for TB, and per ID MAC would be
   most likely if TB negative.
   - F/u with ID today. They had recommended that if state results are
   negative, would stop RIPE and just continue INH for latent TB (?).
   - will wait to see ID recs specifically before stopping these meds.
   - Per ID, no need to change ABx on CVVH
   - Continue respiratory precautions until then
   Other less active/stable issues:
   5. Tachycardia: The patient is intermittently tachycardic, likely sick
   sinus syndrome. Had new EKG changes as above concerning for ischemia
   versus rate related change, and no acute failure on Echo.
   - Continue Diltiazem for rate goal ~ 100, pending blood pressure
   tolerance; do not give if patient HR <100
   6. Wegener's Granulomatosis: The patient has biopsy evidence of renal
   Wegener's with unknown pulmonary status.
   - Continue Prednisone & Cyclophosphamide
   - Will need to closely watch WBC count given Cyclophosphamide
   - Continue Bactrim Ppx
   7. Hemoptysis: The patient has bronchiectasis, a recent bronchoscopy,
   pulmonary TB and had a supratherpeutic INR, giving him multiple reasons
   to have hemoptysis.  He has not had any since his admission to MICU.
   - Watch for hemoptysis
   - Watch coag panels as above
   8. Anemia: probably multifactorial.  Lost blood during HD placement.
   Received 2 u PRBC yesterday
   - check afternoon Hct
   - transfuse for Hct <21
   9. Diabetes Mellitus: Continue SSI
   FEN: No IVF, CVVH, renal diet and boost for adequate PO
   Prophylaxis: Pneumoboots and will start systemic heparin gtt
   Access: Peripheral and R sided HD line. Art line
   Code:  Full (confirmed with patient)
   Communication: Patient and wife [**Name (NI) 6046**] [**Name (NI) 11687**] [**Telephone/Fax (1) 11688**]
   Disposition: Stop CVVH and call out to floor